US07329658B2
Preparation of Intermediate 1-Benzhydryl-3-dimethylaminoazetidine-3-carbonitrile (I-3A-3a)
A solution of 2M dimethylamine in THF (3.92 ml, 7.83 mmol) was added to 1-benzhydrylazetidin-3-one (1.43 g, 6.03 mmol). After stirring 5 minutes, acetic acid (0.450 ml, 7.83 mmol), solid KCN (0.510 g, 7.83 mmol), and methanol (0.5 ml) were added at room temperature. After stirring for 5 minutes, the mixture was heated to 60° C. for 19 hours. The reaction was cooled and extracted from saturated aqueous NaHCO3 with ethyl acetate. The combined extracts were dried (Na2SO4), and concentrated, in vacuo, to afford I-3A-3a as a foam (1.77 g, quantitative): +ESI MS (M+1) 292.3; 1H NMR (400 MHz, CD2Cl2) δ 7.44 (d, J=7.5 Hz, 4H), 7.29 (t, J=7.5 Hz, 4H), 7.21 (t, J=7.3 Hz, 2H), 4.41 (s, 1H), 3.58 (d, J=8.3 Hz, 2H), 3.05 (d, J=8.3 Hz, 2H), 2.13 (s, 6H).

reactant | dimethylamine | 2M | CNC | C2H7N
reactant | THF | 7.83 mmol, 3.92 ml | C1CCOC1 | C4H8O
reactant | 1-benzhydrylazetidin-3-one | 6.03 mmol, 1.43 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
reactant | acetic acid | 7.83 mmol, 0.450 ml | C(C)(=O)O | C2H4O2
reactant | KCN | 7.83 mmol, 0.510 g | [C-]#N.[K+]
solvent | methanol | 0.5 ml | CO | CH4O
product | 1-Benzhydryl-3-dimethylaminoazetidine-3-carbonitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C#N)N(C)C | C19H21N3
